US06110933
(3S)-3-[(2S)-5-Carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide (100 mg) was dissolved in 4N-hydrogen chloride in 1,4-dioxane (5 ml) at room temperature. After being stirred at the same temperature for 10 minutes, the solvent was removed under reduced pressure and the resulting solid was triturated with ethyl ether to give (3S)-3-[(2S)-5-carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide hydrochloride (100 mg).

reactant | (3S)-3-[(2S)-5-Carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide | 100 mg | C(=O)(O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)C=1C=NC2=CC=CC=C2C1 | C32H47N3O6
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (3S)-3-[(2S)-5-carboxy-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide hydrochloride | 100 mg | Cl.C(=O)(O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)C=1C=NC2=CC=CC=C2C1 | InChI=1S/C32H47N3O6.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-17-26(22-29(33)36)41-32(40)28(19-15-20-30(37)38)35-31(39)25-21-24-16-13-14-18-27(24)34-23-25;/h13-14,16,18,21,23,26,28H,2-12,15,17,19-20,22H2,1H3,(H2,33,36)(H,35,39)(H,37,38);1H/t26-,28-;/m0./s1
